US05554627
a) N-Methyl-N-(2-(4-pyridyl)ethyl)amine
Ethyl-4-pyridylacetate (2 g) was allowed to stand in methanol (50 ml), saturated with methylamine gas, for 3 days. The solution was evaporated under reduced pressure and the residue heated under reflux for 16 hours in toluene (20 ml) with boranedimethylsulphide complex (1.26 ml). The solution was cooled then treated with methanol (1.5 ml) for 1 hour. Hydrogen chloride gas was bubbled through the solution until the pH was less than 2. The solution was heated under reflux for 1 hour then cooled and concentrated. Aqueous sodium hydroxide was added and the mixture extracted with ethyl acetate. The ethyl acetate solution was dried (Na2SO4) and evaporated under reduced pressure to give the title compound as a yellow oil.

reactant | Ethyl-4-pyridylacetate | 2 g | C(C)OC(CC1=CC=NC=C1)=O | C9H11NO2
reactant | methylamine | CN | CH5N
solvent | methanol | 50 ml | CO | CH4O
product | N-Methyl-N-(2-(4-pyridyl)ethyl)amine | CNCCC1=CC=NC=C1 | C8H12N2
